US09079919B2
A solution of 6-bromo-1,1-difluoro-1,2,3,4-tetrahydro-naphthalene (691 mg, 2.8 mmol) in tert-butanol (7 ml). A solution of potassium dihydrogenphosphate (769 mg, 5.59 mmol) in water (2 ml) and a solution of sodium phosphate heptahydrate (1.51 g, 5.59 mmol) in water (2 ml) were added. Thereafter, potassium permanganate (670 mg, 4.2 mmol) was added and the reaction mixture stirred at room temperature for 15 hours. For the workup, the mixture was diluted with ethyl acetate (200 ml), the organic layer separated, washed with water (10 ml) and brine (10 ml), finally dried over sodium sulphate and evaporated at reduced pressure. The crude product was purified by chromatography on silica gel using a gradient of heptane/ethyl acetate=100:0 to 80:20 as the eluent. The 7-bromo-4,4-difluoro-3,4-dihydro-2H-naphthalen-1-one (515 mg, 71% yield) was obtained as a colorless oil.

reactant | 6-bromo-1,1-difluoro-1,2,3,4-tetrahydro-naphthalene | 2.8 mmol, 691 mg | BrC=1C=C2CCCC(C2=CC1)(F)F | C10H9BrF2
reactant | potassium dihydrogenphosphate | 5.59 mmol, 769 mg | P(=O)(O)(O)[O-].[K+]
reactant | sodium phosphate heptahydrate | 5.59 mmol, 1.51 g | O.O.O.O.O.O.O.P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | potassium permanganate | 4.2 mmol, 670 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | tert-butanol | 7 ml | C(C)(C)(C)O | C4H10O
solvent | water | 2 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 7-bromo-4,4-difluoro-3,4-dihydro-2H-naphthalen-1-one | 515 mg, 71% yield | BrC1=CC=C2C(CCC(C2=C1)=O)(F)F | C10H7BrF2O
